Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
transient vision loss and dizziness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
NEUROLOGY STROKE ADMISSION/CONSULT NOTE

NO CODE STROKE

___ Stroke Scale Score: 0

t-PA administered: 

[] Yes - Time given: __
[x] No - Reason t-PA was not given or considered: nihss 0

Thrombectomy performed: 
[] Yes 
[x] No - Reason not performed or considered: no LVO

NIHSS performed within 6 hours of presentation at: ___ 
time/date
___ 

NIHSS Total: 0

1a. Level of Consciousness: 0

1b. LOC Question: 0

1c. LOC Commands: 0 

2.  Best gaze: 0

3.  Visual fields: 0

4.  Facial palsy: 0

5a. Motor arm, left: 0

5b. Motor arm, right: 0

6a. Motor leg, left: 0

6b. Motor leg, right: 0

7.  Limb Ataxia: 0

8.  Sensory: 0

9.  Language: 0

10. Dysarthria: 0

11. Extinction and Neglect: 0

 

REASON FOR CONSULTATION: transient vision loss and dizziness
 

HPI: 

___ is a ___ year old male with history of hypertension and
hyperlipidemia who presents with 20 minutes of left upper outer
quadrant vision loss and vertigo.

He reports he has been in his usual state of health recently. He
got up this morning and went on a 2 mile leisurely bike ride. He
does bike in such a way that he has to hyperextend his neck. He
then came out and ate some cheese sandwiches and then went about
his day. He was working on fixing a door and was lifting and
straining but felt fine with this activity. Then he went and sat
on the cough and was talking with his wife. At 2:25, all of the
sudden he noticed that in his upper outer left field of vision,
he could not make things out (describes seeing light but
everything was very blurry). He closed one eye at a time and the
symptoms were still present with one eye closed. He also noticed
that he felt like the room was spinning. He got up and walked
into the kitchen and had to hold onto the kitchen counter. He
googled his symptoms and looked up things to check for stroke.
His wife checked his face, speech, weakness and sensation which
were all normal. He specifically says he checked for drift of 
his
arms and legs and there was none. After about 20 minutes the
vision changes and dizziness resolved.

He called his PCP who recommended he go to an eye doctor. He 
went
to Mass Eye and Ear and had a normal dilated eye exam. He does
report that there was a test in which the ophthalmologist held 
up
a large red box and he had this transient vision change with 
that
in which the very center (not left or right) of the box was
fading from red to black, but then these symptoms stopped. 

He has not been sick recently. There are no new medications. He
does report occasional palpitations. There is no headache or 
neck
pain.

ROS: 

On neurological review of systems, the patient denies headache,
confusion, difficulties producing or comprehending speech,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
 

On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.

 
Past Medical History:
hypertension
hyperlipidemia 
GERD

 
Social History:
Full time ___, stopped smoking ___ years ago; had 10 pack 
year
history, no drugs, no etoh, lives with wife 

- Modified Rankin Scale:

[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
PGF had strokes in ___, father had strokes and MI in his ___,
brother had MI at ___ 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

PHYSICAL EXAMINATION: 

Vitals: T: 98 BP: 150/85 HR: 73 RR: 18 SaO2: 97% on RA

General: Awake, cooperative,
HEENT: NC/AT, no scleral icterus noted
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x ___ or ___, 
___,
___. Able to relate history without difficulty.
Attentive, able to name ___ backward without difficulty. 
Language
is fluent with intact repetition and comprehension. Normal
prosody. There were no paraphasic errors. Able to name both high
and low frequency objects.  Able to read without difficulty. No
dysarthria. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial ___:

II, III, IV, VI:  8 mm NR (post dilation). EOMI without
nystagmus. VFF to confrontation.  Fundoscopic exam revealed no
papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.

  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5    
R    5    5    5    5    5    5   5    5    5   5    5    

-Sensory: No deficits to light touch, pinprick, or 
proprioception
throughout. No extinction to DSS. Romberg absent. 

-Reflexes:

  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     0
R   2     2      2      2     0 
Plantar response was flexor bilaterally.

-Coordination: Bilateral intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

==============================================

DISCHARGE PHYSICAL EXAM:

General: Awake, cooperative
HEENT: NC/AT, no scleral icterus noted
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:

-Mental Status: Alert,  Able to relate history without
difficulty.
Attentive, Language
is fluent with intact repetition and comprehension. Normal
prosody. There were no paraphasic errors. Able to follow both
midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial 

II, III, IV, VI:  EOMI without
nystagmus. VFF to confrontation.  
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.

  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5    
R    5    5    5    5    5    5   5    5    5   5    5    

-Sensory: No deficits to light touch, pinprick, or 
proprioception
throughout. No extinction to DSS. Romberg absent. 

==============================================
 
Pertinent Results:
___ 07:15PM BLOOD WBC-8.1 RBC-4.76 Hgb-14.7 Hct-43.9 MCV-92 
MCH-30.9 MCHC-33.5 RDW-12.3 RDWSD-41.5 Plt ___
___ 07:15PM BLOOD Neuts-71.9* ___ Monos-6.8 Eos-1.9 
Baso-0.2 Im ___ AbsNeut-5.81 AbsLymp-1.54 AbsMono-0.55 
AbsEos-0.15 AbsBaso-0.02
___ 07:15PM BLOOD ___ PTT-29.5 ___
___ 07:15PM BLOOD Glucose-95 UreaN-15 Creat-1.0 Na-141 
K-4.0 Cl-104 HCO3-25 AnGap-12
___ 07:15PM BLOOD ALT-26 AST-18 AlkPhos-56 TotBili-0.4
___ 07:15PM BLOOD Lipase-16
___ 07:15PM BLOOD cTropnT-<0.01
___ 05:30AM BLOOD Cholest-139
___ 07:15PM BLOOD Albumin-4.5 Calcium-9.7 Phos-4.2 Mg-2.1
___ 07:15PM BLOOD %HbA1c-5.6 eAG-114
___ 05:30AM BLOOD Triglyc-95 HDL-42 CHOL/HD-3.3 LDLcalc-78
___ 07:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 09:00PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

Transthoracic ECHO :
No evidence for right-to-left intracardiac shunt at rest or with 
maneuvers.
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is normal left ventricular 
wall thickness with a normal cavity size. There is normal 
regional and global left ventricular systolic function. Overall 
left ventricular systolic function is normal. Quantitative 
biplane left ventricular ejection fraction is 61 % (normal 
54-73%). There is no resting left ventricular outflow tract 
gradient. No ventricular septal defect is seen. Normal right 
ventricular cavity size with normal free wall motion. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal with a 
normal descending aorta diameter. There is no evidence for an 
aortic arch coarctation. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The pulmonic valve leaflets are 
not well seen. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion.
IMPRESSION: Normal LV and RV size and systolic function. No 
significant valvular disease.

___: LENIs: No evidence of deep venous thrombosis in the right 
or left lower extremity  veins. 

___: MR head without contrast: No evidence of acute infarction, 
hemorrhage or intracranial mass.

___: 1. No evidence of acute infarction, hemorrhage or 
intracranial mass. 
2. Patent intracranial and cervical vasculature without evidence 
of 
dissection, stenosis, vessel occlusion or aneurysm formation 
greater than 3 mm. 3. Paranasal sinus disease. 

CXR: No acute cardiopulmonary findings.

 
Brief Hospital Course:
BRIEF SUMMARY:

___ year old male with history of hypertension and hyperlipidemia 
who presented with 20 minutes of left upper outer quadrant 
vision loss and vertigo. Exam on presentation was normal s/p a 
long bike ride (likely dehydrated) and lifting heavy objects. 
History was concerning for a posterior circulation TIA, 
?paradoxical embolism. 
He was admitted to stroke team, CT, CTA head and neck, and brain 
MRI did not show any acute infarct. Echo obtained and was 
reassuring (EF 61%), bubble study included and did not show a 
PFO on preliminary review, final results pending . ___ 
obtained and no DVT identified. Stroke labs showed reassuring 
CBC, HbA1c of 5.6, Cholesterol 139, Triglycerides 95, HDL 42, 
LDL 78. 

Etiology was presumed to be cardioembolic. Patient was started 
on aspirin 81 mg daily and discharged home with outpatient PCP 
follow up with plan for Neurology referral ___, 
At___ Neurologist). Exam at discharge was unremarkable, without 
any localizing signs. 

==================================================

TRANSITIONAL ISSUES:

[ ] Follow up final read of TTE to confirm no PFO 
[ ] We have started patient on aspirin 81 mg daily (baby 
aspirin)
[ ] We have placed a heart monitor (Ziopatch), the results of 
this will be communicated to your PCP / Dr. ___ 
___. 
[ ] Please follow up with PCP, who will refer you to an Atrius 
Neurologist.

===================================================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 78 ) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [x ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist : LDL 
at 78, mechanism likely embolic, on discussion with pt it was 
decided that he will first try dietary modification to lower LDL 
from 78 to less than 70. 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? -- patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [x ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist : LDL 
at 78, mechanism likely embolic, on discussion with pt it was 
decided that he will first try dietary modification to lower LDL 
from 78 to less than 70. 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 

=====================================================

CTA Head and neck: ___:
1. No evidence of acute infarction, hemorrhage or intracranial 
mass. 
2. Patent intracranial and cervical vasculature without evidence 
of 
dissection, stenosis, vessel occlusion or aneurysm formation 
greater than 3 
mm. 
3. Paranasal sinus disease. 

MR head: ___: 
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction. The ventricles and sulci are normal 
in caliber and configuration. Major vascular flow voids are 
preserved. There is mild mucosal thickening along the ethmoid 
air cells. The remainder 
of the paranasal sinuses appear clear. There is trace 
opacification of the 
bilateral inferior mastoid air cells. The orbits appear 
unremarkable. 
 IMPRESSION: 1. No evidence of acute infarction, hemorrhage or 
intracranial mass. 

ECHO ___:
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is normal left ventricular 
wall thickness with a normal cavity size. There is normal 
regional and global left ventricular systolic function. Overall 
left ventricular systolic function is normal. 

Quantitative biplane left ventricular ejection fraction is 61 % 
(normal 54-73%). 

There is no resting left ventricular outflow tract gradient. No 
ventricular septal defect is seen. Normal right ventricular 
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal with a 
normal descending aorta diameter. There is no evidence for an 
aortic arch coarctation.
The aortic valve leaflets (3) appear structurally normal. There 
is no aortic valve stenosis. There is no aortic regurgitation. 
The mitral valve leaflets appear structurally normal with no 
mitral valve prolapse.
There is trivial mitral regurgitation. The pulmonic valve 
leaflets are not well seen. The tricuspid valve leaflets appear 
structurally normal. There is physiologic tricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion.

IMPRESSION: Normal LV and RV size and systolic function. No 
significant valvular disease.

===============================================
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Omeprazole 40 mg PO DAILY 
3. Losartan Potassium 50 mg PO DAILY 
4. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Omeprazole 20 mg PO DAILY 
Patient take 20 mg Omeprazole alternating with 40 mg every other 
day.  
3.  Atorvastatin 20 mg PO QPM  
4.  Losartan Potassium 50 mg PO DAILY  
5.  Omeprazole 40 mg PO DAILY 
Patient take 20 mg Omeprazole alternating with 40 mg every other 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TRANSIENT ISCHEMIC ATTACK

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of "20 minutes of left 
upper outer
quadrant vision loss and vertigo" resulting from a TRANSIENT 
ISCHEMIC ATTACK (TIA), a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked 
transiently by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
We obtained brain imaging and heart echo, which were both 
reassuring.
  
TIA can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having 
TIA/stroke. In order to prevent future strokes, we plan to 
modify those risk factors. Your risk factors are:  
[ ] high blood pressure
[ ] high cholesterol
  
We are changing your medications as follows:  
[ ] We have started you on aspirin 81 mg daily (baby aspirin)
[ ] We have placed a heart monitor (Ziopatch), the results of 
this will be communicated to your PCP and Dr. ___ 
___. 
[ ] Please follow up with your PCP, who will refer you to an 
Atrius Neurologist. An appointment with your PCP has been set 
for ___ at 3:20 ___.
  
Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team 
 
Followup Instructions:
___